* /Users/Caro/Documents/FIUBA/MATERIAS/DCE/ProyectoDCE/TP1/Draft1.asc
XU1 0 N001 N003 Vcc N004 N001 N002 Vcc UA555
C1 N004 0 0.01µ
C N001 0 0.01µ
RB N002 N001 3k
RA Vcc N002 3.9k
V1 Vcc 0 5
R1 Vcc N003 20k
R2 N003 0 20k
.tran 0 2.5m 2m 0.01m
.lib /Users/Caro/Downloads/UA555.txt
.backanno
.end
