* /Users/Caro/Documents/FIUBA/MATERIAS/DCE/ProyectoDCE/TP1/Ejercicio 3/EJERCICIOunidos.asc
R1 N002 Vo 100k
R2 N004 0 100k
RF1 N003 N004 100k
XU1 NC_01 NC_02 NC_03 NC_04 NC_05 LT1017
V1 P001 0 SINE(0 10 4k)
V2 +V 0 15
V3 -V 0 -15
R3 Vc N005 100k
V5 Vcc+ 0 5
V6 Vcc- 0 -5
R4 N001 0 100k
R5 Vo Vc 100k
C1 Vc 0 0.2n
R6 Vo N001 100k
R7 N005 N003 6k
R8 0 P001 1000
R9 NC_06 N003 0.5k
D2 N005 N006 D
D1 0 N006 D
XU3 N004 N002 +V -V N003 TL081
XU2 Vc N001 +V -V Vo TL081
.model D D
.lib /Users/Caro/Library/Application Support/LTspice/lib/cmp/standard.dio
;.dc V1 10 -10
;.dc V1 -10 10
.tran 0 1m 0 0.1u
;tran 300u uic
.ic V(vc)=10
.lib /Users/Caro/Documents/FIUBA/MATERIAS/DCE/ProyectoDCE/TP1/Ejercicio 3/TL081.301
.lib LTC1.lib
.backanno
.end
